US08536176B2
(1) 3-Benzyloxy-2,5-dibromopyridine
To a solution of 2,5-dibromopyridin-3-ol (200 mg, 0.791 mmol) in dry N,N-dimethylformamide (8 mL) was added potassium carbonate (164 mg, 1.19 mmol) and benzyl bromide (0.11 mL, 0.949 mmol). The mixture was stirred at room temperature for 2 hours, diluted with water (10 mL) and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=19/1→3/2) to give the title compound as a white crystal (211 mg, yield 78%).

reactant | 2,5-dibromopyridin-3-ol | 0.791 mmol, 200 mg | BrC1=NC=C(C=C1O)Br | C5H3Br2NO
reactant | potassium carbonate | 1.19 mmol, 164 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.949 mmol, 0.11 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
solvent | water | 10 mL | O | H2O
product | 3-Benzyloxy-2,5-dibromopyridine | 211 mg, yield 78% | C(C1=CC=CC=C1)OC=1C(=NC=C(C1)Br)Br | C12H9Br2NO
